US07217697B2
3-tert-Butyldimethylsilyloxymethylbenzyl bromide
To a solution of (3-tert-butyldimethylsilyloxymethylphenyl)methanol (528 mg) and tetrabromomethane (694 mg) in dichloromethane (10 mL) was added triphenylphosphine (549 mg) at room temperature, and the mixture was stirred for 2 hours. The reaction mixture was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=5/1) to give the title compound (660 mg).

reactant | (3-tert-butyldimethylsilyloxymethylphenyl)methanol | 528 mg | [Si](C)(C)(C(C)(C)C)OCC=1C=C(C=CC1)CO | C14H24O2Si
reactant | tetrabromomethane | 694 mg | BrC(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 549 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 3-tert-Butyldimethylsilyloxymethylbenzyl bromide | 660 mg | [Si](C)(C)(C(C)(C)C)OCC=1C=C(CBr)C=CC1 | C14H23BrOSi
